US06821967B2
a. 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2-methoxycarbonyl-ethyl)-amide
Prepared analogously to Example 1 from beta-alanine-methyl ester and 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride.

reactant | beta-alanine-methyl ester | COC(CCN)=O | C4H9NO2
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride | BrCCCCC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)Cl | C18H16BrClO
product | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2-methoxycarbonyl-ethyl)-amide | COC(=O)CCNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr | C22H24BrNO3
